US07153873B2
1-acetyl-5-amino-7-chloro-2-furan-2-yl-3-(methoxycarbonylmethylamino)imidazo[1,2-a]pyrimidin-1-ium chloride
Example 27 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2,6-diamino-4-chloro-pyrimidine (0.1 M, DCM), 0.575 ml (0.115 mmol) isocyanoacetic acid methyl ester solution (0.2 M, DCM), 0.500 ml (0.15 mmol) furfural solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2,6-diamino-4-chloro-pyrimidine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | isocyanoacetic acid methyl ester | 0.115 mmol, 0.2 M, 0.575 ml | COC(C[N+]#[C-])=O | C4H5NO2
reactant | furfural | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CO1)=O | C5H4O2
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-5-amino-7-chloro-2-furan-2-yl-3-(methoxycarbonylmethylamino)imidazo[1,2-a]pyrimidin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1N=C(C=C2N)Cl)NCC(=O)OC)C=2OC=CC2 | InChI=1S/C15H14ClN5O4.ClH/c1-8(22)20-13(9-4-3-5-25-9)14(18-7-12(23)24-2)21-11(17)6-10(16)19-15(20)21;/h3-6,17-18H,7H2,1-2H3;1H
